//Spice netlist for an inverter 
simulator lang=spectre
subckt IV (input output VDD VSS)
        parameters wp=0.6u lp=0.2u wn=0.3u ln=0.3u              
        M1 output input VDD VDD tsmc18P w=wp l=lp
        M2 output input VSS VSS tsmc18N w=wn l=ln
ends IV

subckt NAND2 (A B output VDD VSS)
		parameters wp=0.6u lp=0.2u wn=0.3u ln=0.2u
		//PMOS
		M1 output A VDD VDD tsmc18P w=wp l=lp
		M2 output B VDD VDD tsmc18P w=wp l=lp
		//NMOS
		M3 output A wire1 VSS tsmc18N w=wn l=ln
		M4 wire1 B VSS VSS tsmc18N w=wn l=ln 
ends NAND2

subckt XOR2 (A B output VDD VSS)
    parameters wp=0.6u lp=0.2u wn=0.3u ln=0.3u
    //PMOS
    M1 wire1 B VDD VDD tsmc18P w=wp l=lp
    M2 output inv_A wire1 VDD tsmc18P w=wp l=lp
    M3 wire2 inv_B VDD VDD tsmc18P w=wp l=lp
    M4 output A wire2 VDD tsmc18P w=wp l=lp
    //NMOS
    M5 output inv_A wire3 VSS tsmc18N w=wn l=ln
    M6 wire3 inv_B VSS VSS tsmc18N w=wn l=ln
    M7 output A wire4 VSS tsmc18N w=wn l=ln
    M8 wire4 B VSS VSS tsmc18N w=wn l=ln
    //Inverter_A
    M9 inv_A A VDD VDD tsmc18P w=wp l=lp
    M10 inv_A A VSS VSS tsmc18N w=wn l=ln
    //Inverter_B
    M11 inv_B B VDD VDD tsmc18P w=wp l=lp
    M12 inv_B B VSS VSS tsmc18N w=wn l=ln
ends XOR2

